US05882628
b. N,N'-Bis(hydroxyacetyl)-N-(2-hydroxyethyl)-3,5-diamino-2,4,6-triiodobenzylalcohol
N,N'-Bis(acetoxyacetyl)-N-(2-acetoxyethyl)-3,5-diamino-2,4,6-triiodobenzylacetate (0.50 g, 0.59 mmol) was dissolved in a mixture of methanol (5 ml), water (5 ml) and aqueous 1M NaOH (1 ml). The solution was stirred for 2 h, pH was adjusted to 2 using aqueous HCl and the product was purified by preparative HPLC. Yield: 240 mg (67%).

reactant | N,N'-Bis(acetoxyacetyl)-N-(2-acetoxyethyl)-3,5-diamino-2,4,6-triiodobenzylacetate | 0.59 mmol, 0.50 g | C(C)(=O)OCC(=O)N(C=1C(=C(CCC(=O)[O-])C(=C(C1I)NC(COC(C)=O)=O)I)I)CCOC(C)=O
reactant | HCl | Cl | ClH
reactant | methanol | 5 ml | CO | CH4O
solvent | water | 5 ml | O | H2O
solvent | NaOH | 1M, 1 ml | [OH-].[Na+]
product | N,N'-Bis(hydroxyacetyl)-N-(2-hydroxyethyl)-3,5-diamino-2,4,6-triiodobenzylalcohol | OCC(=O)N(C=1C(=C(CO)C(=C(C1I)NC(CO)=O)I)I)CCO | C13H15I3N2O6
